US04312876
Cis-4-(4-bromophenoxy)-3-phenylpiperidine
A mixture of 7.28 g of cis-4-(4-bromophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine, 48 ml of 20% aqueous sodium hydroxide solution and 90 ml of absolute ethanol is refluxed overnight under nitrogen. The mixture is cooled and partitioned between 50 ml of water and 100 ml of ether. The aqueous phase is extracted with ether (100 ml), and the combined organic phases are concentrated in vacuo. The resulting solid is dissolved in dichloromethane (100 ml) and washed with saturated sodium chloride solution. After drying over anhydrous sodium sulfate, filtration and concentration in vacuo affords a nearly colorless solid. The solid is dissolved in 200 ml of boiling hexane and the solution is reduced after boiling down in volume to about 150 ml. The solution is filtered, allowed to cool to room temperature and refrigerated overnight to afford product as a nearly colorless, crystalline solid, mp 113°-115° C.

reactant | cis-4-(4-bromophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine | 7.28 g | BrC1=CC=C(O[C@@H]2[C@@H](CN(CC2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C20H22BrNO3
reactant | sodium hydroxide | 48 ml | [OH-].[Na+]
reactant | ethanol | 90 ml | C(C)O | C2H6O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | Cis-4-(4-bromophenoxy)-3-phenylpiperidine | BrC1=CC=C(O[C@@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | C17H18BrNO
